US06054412
3-(5-Amino-4-chloro-2-fluorophenyl)-1-methyl-4,5-di(trifluoromethyl)-1H-pyrazole (No. Ib.023)
4,6 g (83 mmol) of iron powder, 14 ml of glacial acetic acid and 30 ml of ethanol were heated to 70-75° C. and the mixture was treated with 7 g (17 mmol) of 3-(4-chloro-2-fluoro-5-nitrophenyl)-l-methyl-4,5-di(trifluoromethyl)-1H-pyrazole. After the mixture had been stirred for 2 hours at reflux temperature, it was treated with 100 ml of ethyl acetate. The mixture was then filtered through kieselguhr, whereupon the filtrate was washed with saturated aqueous sodium hydrogen carbonate solution, dried over magnesium sulfate and finally concentrated. The residue was purified by means of silica gel chromatography (eluent: hexane/ethyl acetate=4:1). Yield: 22%.

reactant | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | 3-(4-chloro-2-fluoro-5-nitrophenyl)-l-methyl-4,5-di(trifluoromethyl)-1H-pyrazole | 17 mmol, 7 g | ClC1=CC(=C(C=C1[N+](=O)[O-])C1=NN(C(=C1C(F)(F)F)C(F)(F)F)C)F | C12H5ClF7N3O2
catalyst | iron | 83 mmol, 4,6 g | [Fe] | Fe
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-(5-Amino-4-chloro-2-fluorophenyl)-1-methyl-4,5-di(trifluoromethyl)-1H-pyrazole | Yield: 22% | NC=1C(=CC(=C(C1)C1=NN(C(=C1C(F)(F)F)C(F)(F)F)C)F)Cl | C12H7ClF7N3
